US08334405B2
In the second step, as shown in FIG. 5, benzaldehyde (0.578 mL, 5.45 mmol, 1.05 equiv) was added to a solution of 1-((1R,2R)-2-aminocyclohexyl)-3-(3,5-bis(trifluoromethyl)phenyl)thiourea (2 g, 5.19 mmol, 1.0 equiv) in anhydrous MeOH (15 mL) under argon at rt. The resulting solution was stirred at rt for 4 hours, then cooled to 0° C. and NaBH4 (211 mg, 5.71 mmol, 1.1 equiv) was added. The reaction mixture was stirred for 20 min and saturated NH4Cl solution (50 mL) was added, followed by NH4OH (2 mL). The resulting mixture was stirred for additional 20 min, then extracted with dichloromethane (100 mL×5), dried over Na2SO4, and evaporated to dryness. The residue was purified by flash chromatography on silica gel using Hexanes/EtOAc/MeOH/NH4OH (400:100:5:1) to afford 1-((1R,2R)-2-(benzylamino)cyclohexyl)-3-(3,5-bis(trifluoromethyl)phenyl)thiourea (2.02 g, 82% yield) as pale yellow foam. The product was recrystallized from Hexanes/DCM in 75% yield as a white solid. mp 140° C.-141° C.; Rf˜0.48 (DCM/MeOH, 9:1); 1H NMR (CDCl3, 300 MHz) δ=7.69 (s, 2H), 7.48 (s, 1H), 7.29-7.20 (m, 5H), 6.59 (br s, 1H), AB (δ=3.97, 3.82, JAB=12.3 Hz), 3.44 (br s, 1H), 2.49-2.42 (m, 1H), 2.18-2.00 (m, 2H), 1.90-1.75 (m, 2H), 1.40-1.20 (m, 4H); 13C NMR (CDCl3, 75 MHz) δ=183.3, 141.8, 138.0, 131.5 (q, JCF=30 Hz), 129.1, 128.6, 128.3, 128.1, 125.0, 122.4, 121.4, 117.1, 64.4, 62.5, 54.7, 33.2, 32.6, 24.9, 24.6; HRMS (FAB, NBA) Calcd. for C22H24N3SF6 [MH+] m/z 476.1595, found 476.1598.

reactant | benzaldehyde | 5.45 mmol, 0.578 mL, 1.05 equiv | C(C1=CC=CC=C1)=O | C7H6O
reactant | 1-((1R,2R)-2-aminocyclohexyl)-3-(3,5-bis(trifluoromethyl)phenyl)thiourea | 5.19 mmol, 2 g, 1.0 equiv | N[C@H]1[C@@H](CCCC1)NC(=S)NC1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F | C15H17F6N3S
reactant | NaBH4 | 5.71 mmol, 211 mg, 1.1 equiv | [BH4-].[Na+]
reactant | NH4Cl | 50 mL | [NH4+].[Cl-]
reactant | NH4OH | 2 mL | [NH4+].[OH-]
solvent | MeOH | 15 mL | CO | CH4O
product | 1-((1R,2R)-2-(benzylamino)cyclohexyl)-3-(3,5-bis(trifluoromethyl)phenyl)thiourea | 2.02 g, 82% yield | C(C1=CC=CC=C1)N[C@H]1[C@@H](CCCC1)NC(=S)NC1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F | C22H23F6N3S
